US08633189B2
To a solution of 2-cyclopentyl-4-fluoro-5-nitrophenyl methyl carbonate (2022 mg, 7.14 mmol) and NiCl2 (925 mg, 7.14 mmol) in methanol (10 mL) cooled to 0° C. was added NaBH4 (810 mg, 21.42 mmol) portion-wise. The reaction was stirred for 10 min then quenched with NaHCO3. The mixture was diluted with ethyl acetate and filtered through a pad of Celite. The layers were separated and the aqueous layer was extracted with ethyl acetate (3×100 mL). The combined organic extracts were dried over MgSO4, filtered and concentrated. Purification by silica gel chromatography (10% ethyl acetate/hexanes) provided 5-amino-2-cyclopentyl-4-fluorophenyl methyl carbonate (1232 mg, 68% yield) as brown solid. 1H NMR (400.0 MHz, DMSO-d6) δ 6.94 (d, J=12.6 Hz, 1H), 6.50 (d, J=8.2 Hz, 1H), 5.17 (s, 2H), 3.81 (s, 3H), 2.84 (dd, J=8.4, 17.2 Hz, 1H), 1.87-1.80 (m, 2H), 1.75-1.67 (m, 2H), 1.62-1.53 (m, 2H), 1.45-1.36 (m, 2H). MS (ESI) m/z (M+H): 255.1.

reactant | 2-cyclopentyl-4-fluoro-5-nitrophenyl methyl carbonate | 7.14 mmol, 2022 mg | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])F)C1CCCC1)(OC)=O | C13H14FNO5
reactant | NaBH4 | 21.42 mmol, 810 mg | [BH4-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
catalyst | NiCl2 | 7.14 mmol, 925 mg | Cl[Ni]Cl
product | 5-amino-2-cyclopentyl-4-fluorophenyl methyl carbonate | 1232 mg, 68% yield | C(OC1=C(C=C(C(=C1)N)F)C1CCCC1)(OC)=O | C13H16FNO3
